US05371099
A mixture of 7.72 g (40 mmol of 4-(trifluoromethylthio)aniline and 5.2 g (40 mmol) of ethyl acetoacetate in 80 ml of dry toluene was refluxed for 8 hours using a Dean-Stark trap to remove the ethanol formed during the reaction. The reaction mixture was cooled in an ice-bath to obtain 10.48 g (95%) of N-[4-(trifluoromethylthio)phenyl]-3-oxobutanamide as a white crystalline solid, melting at 120°-2° C.

reactant | 4-(trifluoromethylthio)aniline | 40 mmol | FC(SC1=CC=C(N)C=C1)(F)F | C7H6F3NS
reactant | ethyl acetoacetate | 40 mmol, 5.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(trifluoromethylthio)phenyl]-3-oxobutanamide | 10.48 g, 95% | FC(SC1=CC=C(C=C1)NC(CC(C)=O)=O)(F)F | C11H10F3NO2S
